US07067517B2
Methyl-phenyl-carbamic acid 4-phenoxy-phenyl ester
The title compound was prepared from 4-phenoxy-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was recrystallized (ethanol/water) (86%, white crystals). HPLC-MS m/z=320.1 (M+1), Rt: 5.13 min.

reactant | 4-phenoxy-phenol | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-phenoxy-phenyl ester | O(C1=CC=CC=C1)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C20H17NO3
